US07271274B2
A 100 mL round bottom flask equipped with a nitrogen adapter and temperature probe was charged with 1.42 g (2.3 mmol, 1 eq) of 4-{2,6-di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-hydroxy-phenylsulfanyl)-1-methyl-ethylsulfanyl]-phenoxy}-2(S)-hydroxy-butyric acid (Ex-10C), 25 mL THF and cooled to 0° C. The solution was treated with 6.9 mL (6.9 mmol, 3 eq) of 1.0 M borane in THF, warmed to 25° C. and monitored by HPLC. After stirring 6 hours at 25° C., the reaction was cooled using an ice bath, quenched with 15 mL of methanol and concentrated under reduced pressure. The residue was purified by silica gel chromatography (20% EtOAc/hexanes gradient to 80% EtOAc/hexanes) and dried in vacuo to yield 660 mg (1.1 mmol, 47% yield) of 4-{2,6-di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-hydroxy-phenylsulfanyl)-1-methyl-ethylsulfanyl]-phenoxy}-butane-1,2(S)-diol as a white solid, mp 110–112° C. 1H NMR (300 MHz, CDCl3) δ: 7.56 (s, 2H), 7.46 (s, 2H), 5.38 (s, 1H), 3.86–4.06 (m, 3H), 3.71–3.78 (m, 1H), 3.52–3.60 (m, 1H), 2.54 (d, 1H, J=4.08 Hz), 1.97–2.12 (m, 2H), 1.92 (t, 1H, J=6.19 Hz), 1.46 (s, 6H), 1.46 (s, 18H), 1.45 (s, 18H). Anal. calcd for C35H56O4S2: C69.49, H9.33, S10.60; found: C68.86, H9.25, S10.39HRMS (EI+) m/z+Na: calc. 627.3518; found 627.3539.

reactant | 4-{2,6-di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-hydroxy-phenylsulfanyl)-1-methyl-ethylsulfanyl]-phenoxy}-2(S)-hydroxy-butyric acid | 2.3 mmol, 1.42 g, 1 eq | C(C)(C)(C)C1=C(OCC[C@@H](C(=O)O)O)C(=CC(=C1)SC(C)(C)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C(C)(C)C | C35H54O5S2
reactant | borane | 6.9 mmol, 1.0 M, 6.9 mL, 3 eq | B | BH3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4-{2,6-di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-hydroxy-phenylsulfanyl)-1-methyl-ethylsulfanyl]-phenoxy}-butane-1,2(S)-diol | 1.1 mmol, 660 mg, 47% yield | C(C)(C)(C)C1=C(OCC[C@@H](CO)O)C(=CC(=C1)SC(C)(C)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C(C)(C)C | C35H56O4S2
